US04567295
Preparation of N-(2,6-difluorobenzoyl)-N'-[4-(α-cyclopropyl-4-chlorobenzyloxy)phenyl]urea (1)
1,57 g of 2,6-difluorobenzoylisocyanate was added to a solution of 3,35 g 4-(α-cyclopropyl-4-chlorobenzyloxy)aniline in 30 ml of dry acetonitrile while stirring. After stirring for 1 hour at room temperature the formed precipitate was sucked off, washed with acetonitrile, and dried. The desired product was obtained in a yield of 2.90 g; melting point 185°-188° C. The structure was confirmed by means of CMR.

reactant | 2,6-difluorobenzoylisocyanate | 1,57 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
reactant | 4-(α-cyclopropyl-4-chlorobenzyloxy)aniline | 3,35 g | C1(CC1)C(C1=CC=C(C=C1)Cl)OC1=CC=C(N)C=C1 | C16H16ClNO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-(2,6-difluorobenzoyl)-N'-[4-(α-cyclopropyl-4-chlorobenzyloxy)phenyl]urea | FC1=C(C(=O)NC(=O)NC2=CC=C(C=C2)OC(C2=CC=C(C=C2)Cl)C2CC2)C(=CC=C1)F | C24H19ClF2N2O3
